US07238716B2
To a solution of methyl 3-(5-methyl-2-phenyl-4-thiazolylmethoxy)-5-isoxazolecarboxylate (5.27 g) in tetrahydrofuran (100 ml) was slowly added diisobutylaluminum hydride (0.95 M hexane solution, 60 ml) at 0° C. and the mixture was stirred at 0° C. for 1 hr. Sodium sulfate 10 hydrate (17.01 g) was added to the reaction mixture and the mixture was further stirred at room temperature for 30 min. The insoluble materials were removed by filtration, and the filtrate was concentrated to give [3-(5-methyl-2-phenyl-4-thiazolylmethoxy)-5-isoxazolyl]methanol (3.88 g, 80%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 84-85° C.

reactant | methyl 3-(5-methyl-2-phenyl-4-thiazolylmethoxy)-5-isoxazolecarboxylate | 5.27 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=NOC(=C1)C(=O)OC | C16H14N2O4S
reactant | diisobutylaluminum hydride | 0.95 M, 60 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium sulfate 10 hydrate | 17.01 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [3-(5-methyl-2-phenyl-4-thiazolylmethoxy)-5-isoxazolyl]methanol | 3.88 g, 80% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=NOC(=C1)CO | C15H14N2O3S
